US08293768B2
Synthesis of 2-(3-(4-fluorophenethyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 16, making variations as required to replace N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methylthiazole-5-carboxamide with 2-(3-(2,2-dimethoxyethyl)-3-(4-fluorophenethyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 21% yield: mp 182-184° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 8.61-8.48 (m, 2H), 7.67 (d, J=7.2 Hz, 1H), 7.28 (br s, 1H), 7.18-7.03 (m, 2H), 6.97 (d, J=8.6 Hz, 2H), 6.12-5.93 (m, 2H), 4.72 (br s, 1H), 4.57 (d, J=5.7 Hz, 2H) 3.65-3.45 (m, 3H), 3.34-3.29 (m, 1H), 2.85 (t, J=7.2 Hz, 2H), 2.57 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.3, 160.1, 157.1, 153.4, 153.3, 149.2, 149.0, 135.6, 133.6, 130.1, 130.0, 117.2, 115.7, 115.4, 77.2, 50.2, 44.8, 41.4, 33.1, 17.2; MS (ES+) m/z 456.3 (M+1).

reactant | N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)N(CC1=CC=C(C=C1)F)CC(OC)OC)C | C24H27FN4O4S
reactant | 2-(3-(2,2-dimethoxyethyl)-3-(4-fluorophenethyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | COC(CN(C(NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)CCC1=CC=C(C=C1)F)OC | C24H28FN5O4S
product | 2-(3-(4-fluorophenethyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 21% yield | FC1=CC=C(CCN2C(N(C(C2)O)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C22H22FN5O3S
